US04666902
6-(4-Acetylaminophenyl)-5-hydroxymethyl-2-methyl-2,3,4,5-tetrahydropyridazin-3-one
7.4 g (0.03 mol) of 4-(4-acetylaminophenyl)-carbonyl-γ-butyrolactone and 2 ml (0.038 mol) of methylhydrazine in 30 ml of ethanol are heated at room temperature for 1 hour and then under reflux for 3 hours. After the mixture has been cooled, the precipitated product is filtered off with suction and washed.

reactant | 4-(4-acetylaminophenyl)-carbonyl-γ-butyrolactone | 0.03 mol, 7.4 g | C(C)(=O)NC1=CC=C(C=C1)C1CC(C(=O)O1)=C=O | C13H11NO4
reactant | methylhydrazine | 0.038 mol, 2 ml | CNN | CH6N2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 6-(4-Acetylaminophenyl)-5-hydroxymethyl-2-methyl-2,3,4,5-tetrahydropyridazin-3-one | C(C)(=O)NC1=CC=C(C=C1)C=1C(CC(N(N1)C)=O)CO | C14H17N3O3
